US07482345B2
N-[5-(2,6-difluorophenyl)-6-oxo-6H-pyrido[1,2-b]pyridazin-2-yl]-N′-(2-fluorophenyl)urea
2-amino-5-(2,6-difluorophenyl)-6H-pyrido[1,2-b]pyridazin-6-one (50 mg, 0.18 mmol), toluene (3 mL), triethyl amine (36 mg, 0.36 mmol), and 1-fluoro-2-isocyanatobenzene (49 mg, 0.36 mmol) were added to a flask and heated to reflux. The reaction was complete in 3 hrs and concentrated to dryness. The crude residue was purified via silica gel chromatography (CH2Cl2/EtOAc/MeOH) to yield the title compound.

reactant | 2-amino-5-(2,6-difluorophenyl)-6H-pyrido[1,2-b]pyridazin-6-one | 0.18 mmol, 50 mg | NC=1C=CC=2N(N1)C=CC(C2C2=C(C=CC=C2F)F)=O | C14H9F2N3O
reactant | triethyl amine | 0.36 mmol, 36 mg | C(C)N(CC)CC | C6H15N
reactant | 1-fluoro-2-isocyanatobenzene | 0.36 mmol, 49 mg | FC1=C(C=CC=C1)N=C=O | C7H4FNO
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | N-[5-(2,6-difluorophenyl)-6-oxo-6H-pyrido[1,2-b]pyridazin-2-yl]-N′-(2-fluorophenyl)urea | FC1=C(C(=CC=C1)F)C=1C(C=CN2N=C(C=CC21)NC(=O)NC2=C(C=CC=C2)F)=O | C21H13F3N4O2
